US07452893B2
Step 9: N-{trans-4-[2-fluoro-2-(2-fluorophenyl)ethoxy]cyclohexyl}-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine
A mixture of 0.52 g trans-4-[2-fluoro-2-(2-fluorophenyl)ethoxy]-cyclohexanamine hydrochloride, 0.46 g of 4-chloro-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidine, and 1 g of powdered sodium carbonate in 25 mL of 2-propanol was heated to 80° C. under nitrogen overnight. The mixture was cooled, filtered and the solid washed with 3×50 mL portions of 10% methanol in chloroform. The combined extracts were concentrated under reduced pressure. Chromatography over silica gel eluting with a gradient of 50%-100% ethyl acetate in hexane gave 0.82 g of product as a white solid: MS (m+1)=458.4.

reactant | trans-4-[2-fluoro-2-(2-fluorophenyl)ethoxy]-cyclohexanamine hydrochloride | 0.52 g | Cl.FC(CO[C@@H]1CC[C@H](CC1)N)C1=C(C=CC=C1)F
reactant | 4-chloro-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidine | 0.46 g | ClC1=C2C(=NC=N1)N(N=C2)C2OCCCC2 | C10H11ClN4O
reactant | sodium carbonate | 1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 2-propanol | 25 mL | CC(C)O | C3H8O
product | N-{trans-4-[2-fluoro-2-(2-fluorophenyl)ethoxy]cyclohexyl}-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.82 g | FC(CO[C@@H]1CC[C@H](CC1)NC1=C2C(=NC=N1)N(N=C2)C2OCCCC2)C2=C(C=CC=C2)F | C24H29F2N5O2
